US06562989B2
N-(2-methylphenyl)morpholine (Table 3, Entry 1)
According to the general procedure B, 2-bromotoluene (171 mg, 1.00 mmol) reacted with morpholine (104 mg, 1.20 mmol) using 1 mol % of catalyst and sodium tert-butoxide (134 mg, 1.40 mmol) at room temperature for 43 h to give the title compound (70 mg, 40%) as an oil after purification: 1H-NMR (300 MHz, CDCl3): δ 7.22-7.18 (m, 2H), 7.06-7.00 (m, 2H), 3.87 (t, 4H, J=4.5 Hz), 2.93 (t, 4H, J=4.5 Hz), 2.34 (s, 3H). GC/MS(EI): m/z 177 (M+).

reactant | 2-bromotoluene | 1.00 mmol, 171 mg | BrC1=C(C=CC=C1)C | C7H7Br
reactant | morpholine | 1.20 mmol, 104 mg | N1CCOCC1 | C4H9NO
reactant | sodium tert-butoxide | 1.40 mmol, 134 mg | CC(C)([O-])C.[Na+]
product | N-(2-methylphenyl)morpholine | 70 mg, 40% | CC1=C(C=CC=C1)N1CCOCC1 | C11H15NO
